US07504433B2
3-Isopropenyl-5-(4-trifluoromethyl-phenyl)-thiophene-2-carbaldehyde
To a mixture of 2-Formyl-5-(4-trifluoromethyl-phenyl)-thiophene-3-boronic acid (0.330 g, 1.10 mmole), 2-Bromo-propene (0.399 g, 3.30 mmole) and cesium fluoride (0.585 g, 3.85 mmole) in dioxane (5 mL), is bubbled with nitrogen gas for 15 minutes. The catalyst PdCl2 (dppf) (0.033 g) is then added to the mixture. The reaction is heated under reflux for 16 hours. The solvent is removed on rota vapor, and the resulting residue is partitioned between ethyl acetate (20 ml) and water (20 mL). The aqueous layer is extracted with more ethyl acetate (20 mL). The combined organic solution is washed with brine (3×50 mL), dried over Na2SO4 and concentrated. The crude product is purified on a silica gel column, eluting with 0-15% ethyl acetate in hexane and concentrated to provide the titled compound as pale yellow crystalline.

reactant | 2-Formyl-5-(4-trifluoromethyl-phenyl)-thiophene-3-boronic acid | 1.10 mmole, 0.330 g | C(=O)C=1SC(=CC1B(O)O)C1=CC=C(C=C1)C(F)(F)F | C12H8BF3O3S
reactant | 2-Bromo-propene | 3.30 mmole, 0.399 g | BrC(=C)C | C3H5Br
reactant | cesium fluoride | 3.85 mmole, 0.585 g | [F-].[Cs+]
solvent | dioxane | 5 mL | O1CCOCC1 | C4H8O2
product | 3-Isopropenyl-5-(4-trifluoromethyl-phenyl)-thiophene-2-carbaldehyde | C(=C)(C)C1=C(SC(=C1)C1=CC=C(C=C1)C(F)(F)F)C=O | C15H11F3OS
